US04518596
4-Morpholino-8-(1-naphthylmethyl-thio)-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 1 from 2-chloro-4-morpholino-8-(1-naphthylmethyl-thio)-pyrimido [5,4-d]-pyrimidine (m.p.: 206°-209° C.) and piperazine.

reactant | 2-chloro-4-morpholino-8-(1-naphthylmethyl-thio)-pyrimido [5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SCC2=CC=CC1=CC=CC=C21)N2CCOCC2 | C21H18ClN5OS
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 4-Morpholino-8-(1-naphthylmethyl-thio)-2-piperazino-pyrimido-[5,4-d]-pyrimidine | O1CCN(CC1)C=1C2=C(N=C(N1)N1CCNCC1)C(=NC=N2)SCC2=CC=CC1=CC=CC=C21 | C25H27N7OS
